US07902373B2
6-(3-Fluorophenyl)-N-[3-(4-fluorophenyl)piperidin-4-yl]nicotinamide
To a solution of tert-butyl 3-(4-fluorophenyl)-4-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)piperidine-1-carboxylate (348 mg, 0.71 mmol) in CH2Cl2 (5 mL) at 0° C. was added TFA (1.2 mL). After stirring overnight at rt the the reaction was diluted with toluene (5 mL) and then the solvent removed and the residue purified by chromatography (silica, 10% MeOH/DCM) to give the desired product, 6-(3-fluorophenyl)-N-[3-(4-fluorophenyl)piperidin-4-yl]nicotinamide. (168 mg, 61% yield). 1H NMR (400 MHz, DMSO-d6) □ ppm 8.87 (1H, d, J=2.0 Hz), 8.52 (1H, s), 8.04-8.15 (2H, m), 8.00 (2H, d, J=7.9 Hz), 7.58 (1H, d, J=6.1 Hz), 7.35 (4H, dd, J=9.0, 3.5 Hz), 7.08-7.22 (2H, m), 4.60-4.72 (1H, m), 3.81 (1H, t), 3.05-3.27 (4H, m), 1.91 (1H, s). LC/MS=(M+H)=394.1 observed, 394.17 expected.

reactant | tert-butyl 3-(4-fluorophenyl)-4-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)piperidine-1-carboxylate | 0.71 mmol, 348 mg | FC1=CC=C(C=C1)C1CN(CCC1NC(=O)C=1C=NC(=CC1)C1=CC(=CC=C1)F)C(=O)OC(C)(C)C | C28H29F2N3O3
reactant | TFA | 1.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(3-fluorophenyl)-N-[3-(4-fluorophenyl)piperidin-4-yl]nicotinamide | FC=1C=C(C=CC1)C1=NC=C(C(=O)NC2C(CNCC2)C2=CC=C(C=C2)F)C=C1 | C23H21F2N3O
